US08012972B2
N-(2-Aminophenyl)-5-[1-(3-dimethylaminopropyl)-3-phenethylureidomethyl]pyridine-2-carboxylic acid amide (Compound No. 1-1)
4.0 M hydrogen chloride-ethyl acetate solution (1.0 mL) was added to a solution of N-(2-t-butoxycarbonylaminophenyl)-5-[1-(3-dimethylaminopropyl)-3-phenethylureidomethyl]pyridine-2-carboxylic acid amide (Reference Compound No. 6-1, 31 mg, 0.060 mmol) in methanol (2.0 mL), and then the reaction mixture was stirred at room temperature for 4 hours. Saturated aqueous sodium hydrogen carbonate solution (30 mL) was added thereto, and then the whole was extracted with ethyl acetate (30 mL) three times. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol) to give 24 mg of the title compound as a yellow amorphous product. (Yield 84%)

reactant | hydrogen chloride-ethyl acetate | 4.0 M, 1.0 mL | C(C)(=O)OCC.Cl
reactant | N-(2-t-butoxycarbonylaminophenyl)-5-[1-(3-dimethylaminopropyl)-3-phenethylureidomethyl]pyridine-2-carboxylic acid amide | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)C1=NC=C(C=C1)C(CCCN(C)C)NC(=O)NCCC1=CC=CC=C1 | C32H42N6O4
reactant | sodium hydrogen carbonate | 30 mL | C(O)([O-])=O.[Na+]
solvent | methanol | 2.0 mL | CO | CH4O
product | N-(2-Aminophenyl)-5-[1-(3-dimethylaminopropyl)-3-phenethylureidomethyl]pyridine-2-carboxylic acid amide | 24 mg, Yield 84% | NC1=C(C=CC=C1)NC(=O)C1=NC=C(C=C1)C(CCCN(C)C)NC(=O)NCCC1=CC=CC=C1 | C27H34N6O2
